data/mechanisms/records/IMS9-EQ9.12.json
{"mechanism_id": "IMS9-EQ9.12", "species": [{"species_id": "tetrahydrocannabinol_molecular_ion", "mapped_smiles": "[CH3:22][C:2]1([CH3:23])[CH:3]2[CH2:4][CH:5]=[C:6]([CH3:7])[CH2:8][CH:9]2[C:10]3=[C:11]([O+:1]1)[CH:16]=[C:15]([CH2:17][CH2:18][CH2:19][CH2:20][CH3:21])[CH:14]=[C:12]3[OH:13]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "isoprene_neutral_loss", "mapped_smiles": "[CH2:4]=[CH:5][C:6]([CH3:7])=[CH2:8]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "chromene_oxonium_radical_cation_246", "mapped_smiles": "[CH3:22][C:2]1([CH3:23])[CH:3][CH:9]=[C:10]2[C:11](=[O+:1]1)[CH:16]=[C:15]([CH2:17][CH2:18][CH2:19][CH2:20][CH3:21])[CH:14]=[C:12]2[OH:13]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "chromenylium_231", "mapped_smiles": "[CH3:23][C:2]1=[CH:3][CH:9]=[C:10]2[C:11](=[O+:1]1)[CH:16]=[C:15]([CH2:17][CH2:18][CH2:19][CH2:20][CH3:21])[CH:14]=[C:12]2[OH:13]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "methyl_radical", "mapped_smiles": "[CH3:22]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["tetrahydrocannabinol_molecular_ion"]}, {"state_id": "state_after_rda", "species_ids": ["chromene_oxonium_radical_cation_246", "isoprene_neutral_loss"]}, {"state_id": "state_products", "species_ids": ["chromenylium_231", "isoprene_neutral_loss", "methyl_radical"]}], "steps": [{"step_id": "step_retro_diels_alder", "from_state": "state_precursor", "to_state": "state_after_rda", "step_class": "retro_diels_alder", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [1]}, "target": {"type": "bond", "atom_maps": [1, 11]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [10, 11]}, "target": {"type": "bond", "atom_maps": [1, 11]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [10, 11]}, "target": {"type": "bond", "atom_maps": [9, 10]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [8, 9]}, "target": {"type": "bond", "atom_maps": [9, 10]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [8, 9]}, "target": {"type": "bond", "atom_maps": [6, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 6]}, "target": {"type": "bond", "atom_maps": [6, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 6]}, "target": {"type": "bond", "atom_maps": [4, 5]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "bond", "atom_maps": [4, 5]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "atom", "atom_maps": [3]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_alpha_methyl_loss", "from_state": "state_after_rda", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [3]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 22]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 22]}, "target": {"type": "atom", "atom_maps": [22]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_rda", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_retro_diels_alder", "support_type": "textbook_proposed", "locator": {"page": 237, "equation": "9.12", "figure": null, "panel": null, "section": "9.1 Hydrocarbons (tetrahydrocannabinol, retro-Diels-Alder, arrow labelled 'alpha2')"}, "confidence": 0.75, "curator_note": "Concerted retro-Diels-Alder of the tetrahydrocannabinol molecular ion (m/z 314), drawn as ONE step over the arrow labelled 'alpha2' (two alpha cleavages), expelling C5H8 (isoprene, 68) and giving the ionized monoene m/z 246. The running text calls eq 9.12 'one possible rationalization of the electron shifts involved'. Book draws 8 arc(s); moves <1..8> are all drawn, move <9> is an implicit homolysis hook required for electron balance (not drawn on the page - the book simply prints the dot on map 3 of the m/z 246 product). Drawn arcs, in the order encoded: <1> the fishhook that starts at the printed '+.' under the pyran oxygen (map 1) and points at the O-C(aromatic) bond; <2> and <3> the two fishhooks that empty the drawn map10=map11 pi bond, one into the forming map1=map11 oxocarbenium bond and one into the forming map9=map10 bond; <4> and <5> the two fishhooks that empty the breaking map8-map9 ring bond, one into map9=map10 and one into the forming map6=map8 bond; <6> and <7> the two fishhooks that empty the drawn map5=map6 alkene pi bond, one into map6=map8 and one into the forming map4=map5 bond; <8> the fishhook from the breaking map3-map4 bond into map4=map5. LOCALIZATION (convention B): the molecular ion is drawn n-ionized AT THE PYRAN OXYGEN ('+.' printed directly under the ring O), so map 1 is written [O+:1] with two single bonds, which carries the one unpaired electron; the '+' and the odd electron are not merely JSON fields. KEKULE CHOICE (convention C): the aromatic ring is written in exactly the Kekule form printed on the page (inner lines drawn for map10=map11, map12=map14 and map15=map16); after the step map10=map11 has become single and map1=map11 / map9=map10 are double, i.e. the cross-conjugated quinoid form the book draws for m/z 246. ISOMER AS DRAWN: the printed cyclohexene ring carries its double bond between the methyl-bearing carbon (map 6) and the carbon TWO bonds from the ring-fusion carbon map 9, i.e. the drawn structure is the delta-8 (= old delta-6) tetrahydrocannabinol skeleton; measured on the scan the inner double-bond line is unambiguous (two parallel 3-4 px lines 12-13 px apart between map 5 and map 6, while the map6-map8 bond is a single 4 px line). That geometry is what makes a one-step retro-Diels-Alder expel free C5H8 while leaving the pyran ring intact: for the delta-9 isomer the same retro-Diels-Alder would have to break the C6a-C10a ring-fusion bond and could not release C5H8 in one step. m/z 314 and m/z 246 are labelled on the page; no percentage is printed for either."}, {"evidence_id": "evidence_step_alpha_methyl_loss", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_methyl_loss", "support_type": "textbook_proposed", "locator": {"page": 237, "equation": "9.12", "figure": null, "panel": null, "section": "9.1 Hydrocarbons (tetrahydrocannabinol, CH3 loss from the m/z 246 OE+. ion)"}, "confidence": 0.85, "curator_note": "Alpha cleavage of the m/z 246 odd-electron ion: the ring radical site (map 3) drives homolysis of one gem-dimethyl C-CH3 bond (map2-map22), expelling CH3. and giving the fully conjugated even-electron chromenylium ion m/z 231 - the aromatic stabilization the running text invokes ('consistent with the aromatic stabilization achieved in this EE+ product ion'). Book draws 2 arc(s) on the m/z 246 structure; moves <1,2> are drawn, move <3> is an implicit homolysis hook required for electron balance (not drawn on the page - the loss is written as '- CH3.' over the arrow). Drawn arc 1 = the fishhook from the printed dot (map 3) into the map2-map3 bond; drawn arc 2 = the fishhook from the C-CH3 bond into that same forming pi bond. The drawn m/z 231 structure is reproduced exactly: pyran ring O(+)=map11, map2=map3, map9=map10, with the benzo ring Kekule map12=map14 / map15=map16 as printed. INTENSITY: the page prints no percentage; the running text states in words that this CH3 loss 'gives the base peak', so that statement is recorded HERE IN WORDS ONLY: relative_intensity is left UNSET, per convention F, which reserves that field for a percentage actually printed on the page. An earlier version of this record set it to 1.0 on the reasoning that a base peak is 100% by definition; that was dropped on review so the field means 'printed measurement' everywhere in the corpus without exception. status stays 'proposed'. The text further notes that a substantial part of m/z 231 may instead arise by C5H8 loss from the (M-CH3)+ ion, i.e. by the reverse order of the same two losses; that alternative path is not drawn and is not encoded here. DELOCALISATION CAVEAT: the species are written in the Kekule forms printed on the page, but RDKit re-perceives aromaticity on parsing - the benzo ring of all three ions and, for m/z 231, the whole pyranylium ring (o+ included) come back aromatic, which is precisely the stabilization the text invokes. The validator therefore reports the ring-bond order changes of these two steps as (soft) 'aromatic/delocalised' half-order mismatches; all non-ring bond changes (map1-map11, map9-map10, map8-map9, map6-map8, map5-map6, map4-map5, map3-map4, map2-map22) balance exactly against the arrows."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 314.224, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_246", "species_id": "chromene_oxonium_radical_cation_246", "step_id": "step_retro_diels_alder", "observed_mz": 246.1614, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.8}, {"peak_id": "peak_231", "species_id": "chromenylium_231", "step_id": "step_alpha_methyl_loss", "observed_mz": 231.138, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.8}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-30T00:00:00Z", "modified_at": "2026-07-30T00:00:00Z"}}
